US04242281
Prod.: (many methods) e.g. from Myrcene, via Myrcene dihydrochloride to Dichloro di-methyloctene. This is converted to Chloro di-hydrogeranyl acetate (and-neryl acetate) with Sodium Acetate in Benzene in presence of Triethylamine. The acetates are saponified with Calcium hydroxide to yield Hydroxycitronellol, from which the aldehyde is prepared by oxidation.

reactant | Myrcene | CC(=CCCC(=C)C=C)C | C10H16
reactant | Dichloro di-methyloctene | ClC(C(=C(C)C)Cl)CCCCC | C10H18Cl2
reactant | neryl acetate | C(C)(=O)OC\C=C(\C)/CCC=C(C)C | C12H20O2
reactant | Sodium Acetate | C(C)(=O)[O-].[Na+]
reactant | Calcium hydroxide | [OH-].[Ca+2].[OH-]
solvent | Benzene | C1=CC=CC=C1 | C6H6
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | Hydroxycitronellol | OC\C(\C)=C/CCC(C)CCO | C10H20O2
